US05672714
In 10 ml of methylene chloride, was dissolved 2.9 g (0.01 mol) of N-(2-chloro-5-nitrophenyl)-α-pivaloylacetic acid amide, which is easily obtained by a reaction of 2-chloro-5-nitroaniline with pivaloylacetic acid ester; and then to this was added, slowly, 1.50 g (0.00525 mol) of 1,3-dibromo-5,5-dimethylhydantoin, on an ice bath, followed by stirring for 1 hour.

reactant | N-(2-chloro-5-nitrophenyl)-α-pivaloylacetic acid amide | 0.01 mol, 2.9 g | ClC1=C(C=C(C=C1)[N+](=O)[O-])NC(CC(C(C)(C)C)=O)=O | C13H15ClN2O4
solvent | methylene chloride | 10 ml | C(Cl)Cl | CH2Cl2
product | 2-chloro-5-nitroaniline | ClC1=C(N)C=C(C=C1)[N+](=O)[O-] | C6H5ClN2O2
